US07169780B2
Step 3: Benzyl-(2S,4S)-2-aminocarbonyl-4-fluoropyrrolidine-1-carboxylate
A stirred solution of (4S)-1-[(Benzyloxy)carbonyl]-4-fluoro-L-proline in dioxane was treated with pyridine (0.7 eq.) and Boc2O (1.3 eq.), then ammonium bicarbonate (1.26 eq.) was added and the mixture was stirred at room temperature for 15 hours. Dioxane was concentrated and the residue was taken up in ethyl acetate, washed with 1 N HCl and brine, dried over Na2SO4 to give, after filtration and concentration, title compound.

reactant | (4S)-1-[(Benzyloxy)carbonyl]-4-fluoro-L-proline | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)C[C@@H](C1)F | C13H14FNO4
reactant | pyridine | 0.7 eq. | N1=CC=CC=C1 | C5H5N
reactant | Boc2O | 1.3 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium bicarbonate | 1.26 eq. | C([O-])(O)=O.[NH4+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Benzyl-(2S,4S)-2-aminocarbonyl-4-fluoropyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)F)C(=O)N | C13H15FN2O3
